US09388189B2
(S)—N-(3-(4-Amino-6-((1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)phenyl)-4-hydroxybenzenesulfonamide
(S)—N-(3-(4-Amino-6-((1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)phenyl)-4-methoxybenzenesulfonamide (126 mg, 0.21 mmol) was treated with boron tribromide (1M in dichloromethane, 0.62 ml, 0.62 mmol) with dichloromethane (1.5 ml) as a solvent according to the method described in Example 23. The residue was purified by reverse phase chromatography using SP1® Purification System to give 47 mg (38% yield) as a solid. Purity 99%.

reactant | (S)—N-(3-(4-Amino-6-((1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)phenyl)-4-methoxybenzenesulfonamide | 0.21 mmol, 126 mg | NC1=NC=NC(=C1C=1C=C(C=CC1)NS(=O)(=O)C1=CC=C(C=C1)OC)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2 | C31H28N8O4S
reactant | boron tribromide | 0.62 mmol, 1M, 0.62 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
product | (S)—N-(3-(4-Amino-6-((1-(4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)phenyl)-4-hydroxybenzenesulfonamide | 38% yield | NC1=NC=NC(=C1C=1C=C(C=CC1)NS(=O)(=O)C1=CC=C(C=C1)O)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2 | C30H26N8O4S
